US04062965
a. Preparation of 1,3-di-n-dodecyl-2-ethylimidazole bromide
0.38 mole of 1-n-dodecyl-2-ethylimidazole and 0.42 mole of n-dodecyl bromide are dissolved in 250 ml of ethanol and boiled with reflux for 5 hours. The solvent then is separated and the residue is washed with ether.

reactant | 1-n-dodecyl-2-ethylimidazole | 0.38 mole | C(CCCCCCCCCCC)N1C(=NC=C1)CC | C17H32N2
reactant | n-dodecyl bromide | 0.42 mole | C(CCCCCCCCCCC)Br | C12H25Br
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1,3-di-n-dodecyl-2-ethylimidazole bromide | [Br-].C(CCCCCCCCCCC)N1C(N(C=C1)CCCCCCCCCCCC)CC | InChI=1S/C29H58N2.BrH/c1-4-7-9-11-13-15-17-19-21-23-25-30-27-28-31(29(30)6-3)26-24-22-20-18-16-14-12-10-8-5-2;/h27-29H,4-26H2,1-3H3;1H/p-1
